US09226916B2
c) rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(trans-4-hydroxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 1 (step f), the title compound rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(trans-4-hydroxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester using trans-4-hydroxycyclohexanecarboxylic acid instead of 1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carboxylic acid and was obtained as a light brown oil. MS m/e: 509.3 [M]+.

reactant | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CNC[C@@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C18H17Cl2FN2O2
reactant | trans-4-hydroxycyclohexanecarboxylic acid | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
product | rac-[(3R,4S)-4-(3,4-Dichloro-phenyl)-1-(trans-4-hydroxy-cyclohexanecarbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)[C@@H]1CC[C@H](CC1)O)=O | C25H27Cl2FN2O4
